US08242145B2
Step 1: {4-Methoxy-3-[4-morpholin-4-yl-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester
{3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester (0.2 g, 0.43 mmol), morpholine (0.05 mL, 0.52 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.01 g, 0.01 mmol), BINAP (0.026 g, 0.04 mmol), and sodium tert-butoxide (0.09 g, 0.86 mmol) were combined in toluene (10 mL) and stirred at 100° C. for 2 hours. The mixture was worked-up to give the title compound.

reactant | {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | 0.43 mmol, 0.2 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CN1C(OCC1)=O)=O | C21H22BrNO6
reactant | morpholine | 0.52 mmol, 0.05 mL | N1CCOCC1 | C4H9NO
reactant | BINAP | 0.04 mmol, 0.026 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.86 mmol, 0.09 g | CC(C)([O-])C.[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 0.01 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | {4-Methoxy-3-[4-morpholin-4-yl-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N1CCOCC1)CN1C(OCC1)=O)=O | C25H30N2O7
